US07579351B2
(R)-2-(2-Hydroxy-ethyl)-8-(1-isopropyl-piperidin-4-yloxy)-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one
To the solution of 0.14 g (0.28 mmol) (R)-2-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-8-(1-isopropyl-piperidin-4-yloxy)-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one, 98 μL (0.89 g, 0.34 mmol) tetra-n-butylammonium fluoride solution (1M in tetrahydrofuran) was added. After 1 h, the reaction was diluted with dichloromethane and was poured on 1M aqueous sodium hydroxide solution. The organic phase was separated, washed with brine and dried over magnesium sulfate. After filtration the volatile components were removed at a rotary evaporator to give the desired product as a colorless oil (86%).

reactant | (R)-2-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-8-(1-isopropyl-piperidin-4-yloxy)-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 0.28 mmol, 0.14 g | C(C)(C)(C)[Si](OCCN1C(C=2N(C=3C=CC(=CC3C2)OC2CCN(CC2)C(C)C)[C@@H](C1)C)=O)(C)C | C28H45N3O3Si
reactant | tetra-n-butylammonium fluoride | 0.34 mmol, 1M, 98 μL, 0.89 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | (R)-2-(2-Hydroxy-ethyl)-8-(1-isopropyl-piperidin-4-yloxy)-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 86% | OCCN1C(C=2N(C=3C=CC(=CC3C2)OC2CCN(CC2)C(C)C)[C@@H](C1)C)=O | C22H31N3O3
